US07683185B2
7-(4-Chloro-benzenesulfinyl)-heptanoic acid ethyl ester (30c).
To a solution of 7-(4-chlorophenylsulfanyl)-heptanoic acid ethyl ester (1.6 g, 5.3 mmol) in ethanol (10 mL) and tetrahydrofuran (10 mL) was added dropwise at 0° C. a solution of sodium metaperiodate (1.1 g, 5.3 mmol) in distilled water (10 mL). The mixture was heated at reflux for 1 hour. The solution was concentrated under reduced pressure to give an oil that was dissolved in ethyl acetate (100 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate (50 mL), distilled water (50 mL), then with brine (50 mL). The organic layer was then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an oil that was purified by flash chromatography (1:1 ethyl acetate:40-60° C. petroleum ether). The title compound was obtained as a colourless oil (1.2 g, 74%).

reactant | 7-(4-chlorophenylsulfanyl)-heptanoic acid ethyl ester | 5.3 mmol, 1.6 g | C(C)OC(CCCCCCSC1=CC=C(C=C1)Cl)=O | C15H21ClO2S
reactant | sodium metaperiodate | 5.3 mmol, 1.1 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(4-Chloro-benzenesulfinyl)-heptanoic acid ethyl ester | C(C)OC(CCCCCCS(=O)C1=CC=C(C=C1)Cl)=O | C15H21ClO3S
